US04152442
2-Amino-5-methyl-1,3,4-thiadiazole (23 g, 0.2 mole) in toluene (100 ml) was treated with n-hexanoic anhydride (50 ml) and the mixture was refluxed for 3 hours. The product crystallised on standing at room temperature overnight. The product was filtered off and recrystallised from ethyl acetate to give N-(5-methyl-1,3,4-thiadiazol-2-yl)-hexanamide, m.p. 203° C. (20.68 g).

reactant | 2-Amino-5-methyl-1,3,4-thiadiazole | 0.2 mole, 23 g | NC=1SC(=NN1)C | C3H5N3S
reactant | n-hexanoic anhydride | 50 ml | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(5-methyl-1,3,4-thiadiazol-2-yl)-hexanamide | CC1=NN=C(S1)NC(CCCCC)=O | C9H15N3OS
